US04038396
A mixture of 2.8 g. of 2-(2-bromophenyl)oxazolo[4,5-b]pyridine, 1.6 g. of cuprous cyanide and 15 ml. of N-methylpyrrolidinone was deairated by bubbling nitrogen through the mixture for 5 minutes. It was then heated to 175° C. in an oil-bath and held at that temperature for 5 hours under a nitrogen atmosphere and then allowed to cool to room temperature. The reaction mixture was treated with 75 ml. of 10% ammonium hydroxide and the resulting precipitate was collected. The precipitate was extracted with 100 ml. of boiling methylene chloride and the methylene chloride was evaporated. The residue was recrystallized from methylene chloride to give 2-(2-cyanophenyl)oxazolo[4,5-b]pyridine, m.p. 166°-167° C.

reactant | 2-(2-bromophenyl)oxazolo[4,5-b]pyridine | BrC1=C(C=CC=C1)C=1OC=2C(=NC=CC2)N1 | C12H7BrN2O
reactant | N-methylpyrrolidinone | CN1C(CCC1)=O | C5H9NO
product | 2-(2-cyanophenyl)oxazolo[4,5-b]pyridine | C(#N)C1=C(C=CC=C1)C=1OC=2C(=NC=CC2)N1 | C13H7N3O
